US09065061B2
Step 1: Synthesis of N-(2,6-dimethylphenyl)-3-bromobenzamide
First, 13.8 g of 2,6-dimethylaniline, 17.3 g of triethylamine, and 150 mL of tetrahydrofuran (THF) were put in a 500 mL three-neck flask, and stirred. This mixed solution was cooled in ice, and a mixed solution of 25 g of 3-bromobenzoyl chloride and 30 mL of THF was dripped through a dropping funnel, and then, the temperature was increased to room temperature and the mixture was stirred for 24 hours. After the stirring, chloroform was added to this mixture, the mixture was washed with water and then saturated saline, and anhydrate magnesium sulfate was added for drying. The mixture after the drying was subjected to gravity filtration, and the filtrate was concentrated to give a solid. This solid was washed with hexane, so that N-(2,6-dimethylphenyl)-3-bromobenzamide was prepared as a white solid with a yield of 53%. The synthetic scheme of Step 1 is shown by (a-17).

reactant | 2,6-dimethylaniline | 13.8 g | CC1=C(N)C(=CC=C1)C | C8H11N
reactant | triethylamine | 17.3 g | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
reactant | 3-bromobenzoyl chloride | 25 g | BrC=1C=C(C(=O)Cl)C=CC1 | C7H4BrClO
reactant | THF | 30 mL | O1CCCC1 | C4H8O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-(2,6-dimethylphenyl)-3-bromobenzamide | yield of 53% | CC1=C(C(=CC=C1)C)NC(C1=CC(=CC=C1)Br)=O | C15H14BrNO
